US06890940B2
Under nitrogen, to a solution of (4-acetyl-3,5-dimethoxyphenyl)trimethyltin (235.0 mg, 0.760 mmol) synthesized as described in Reference Example 8 in toluene (10 mL) were added crude N,N′-bis(2-chloro-5-pyridyl)-N,N′-dimethylethylenediamine(78.0 mg, approx. 0.25 mmol) synthesized as described in Reference Example 9 and tetrakis(triphenylphosphine)palladium (116.0 mg, 0.100 mmol). After stirring at 130° C. for 22 hours, a saturated aqueous potassium fluoride was added to the reaction mixture and the mixture was stirred for 1 hour. Insoluble materials were removed by filtration through Celite. The residue was washed with chloroform, and the aqueous layer of the filtrate was extracted with chloroform. The washing and the organic layer of the filtrate were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield N,N′-bis[2-(4-acetyl-3,5-dimethoxyphenyl)-5-pyridyl]-N,N′-dimethylethylenediamine as a pale yellow crystalline powder [41.4 mg, yield: 23% based on N,N′-bis(2-hydroxy-5-pyridyl)-N,N′-dimethylethylenediamine ditrifluoroacetate].

reactant | (4-acetyl-3,5-dimethoxyphenyl)trimethyltin | 0.760 mmol, 235.0 mg | C(C)(=O)C1=C(C=C(C=C1OC)[Sn](C)(C)C)OC
reactant | N,N′-bis(2-chloro-5-pyridyl)-N,N′-dimethylethylenediamine | approx. 0.25 mmol, 78.0 mg | ClC1=NC=C(C=C1)N(CCN(C)C=1C=CC(=NC1)Cl)C | C14H16Cl2N4
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.100 mmol, 116.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N′-bis[2-(4-acetyl-3,5-dimethoxyphenyl)-5-pyridyl]-N,N′-dimethylethylenediamine | yield: 23% | C(C)(=O)C1=C(C=C(C=C1OC)C1=NC=C(C=C1)N(CCN(C)C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)C(C)=O)OC)C)OC | C34H38N4O6
